US03976780
In an hydrogenating autoclave, there are placed 144 g of methyl 3,4-dimethoxy-6-nitro-benzoate, 300 ml of tetrahydrofuran and 3 coffee spoonfuls of Raney nickel. Hydrogenation occurs at about 35°C. In 20 minutes, the pressure drop is 80 kg. It is cooled, the nickel filtered, and the tetrahydrofuran removed under vacuum. There are obtained 123 g (97%) of methyl 3,4-dimethoxy-6-aminobenzoate. (m.p.: 130°C).

reactant | methyl 3,4-dimethoxy-6-nitro-benzoate | 144 g | COC=1C=C(C(=O)OC)C(=CC1OC)[N+](=O)[O-] | C10H11NO6
catalyst | Raney nickel | [Ni] | Ni
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | methyl 3,4-dimethoxy-6-aminobenzoate | 123 g, 97% | COC=1C=C(C(=O)OC)C(=CC1OC)N | C10H13NO4
